US07192964B2
Production of 2-[(3-fluorophenyl)amino]acetamide
An ethanol solution (50 ml) of 1.45 ml of 3-fluoroaniline and 1.37 g of 2-bromoacetamide was heated under reflux for 24 hours. The reaction liquid was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in chloroform and washed with 1N aqueous sodium hydroxide solution. The aqueous solution used for the washing was extracted with chloroform and combined with the earlier obtained chloroform extract, dried over anhydrous magnesium sulfate and the solvent was distilled off. The residue was separated and purified on silica gel column chromatography (chloroform/methanol=100/3) to provide 1.03 g of the title compound as a pale yellow solid.

reactant | 3-fluoroaniline | 1.45 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 2-bromoacetamide | 1.37 g | BrCC(=O)N | C2H4BrNO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[(3-fluorophenyl)amino]acetamide | 1.03 g | FC=1C=C(C=CC1)NCC(=O)N | C8H9FN2O
